US07875640B2
2,5-difluoro-N-methoxybenzamide
To a mixture of 2,5-difluorobenzoyl chloride (1.77 g, 10 mmol) and O-methylhydroxylamine hydrochloride (830 mg, 10 mmol) in methylene chloride (25 mL) at 0° C. was added dropwise triethylamine (2.8 mL, 20 mmol) and the mixture was stirred at room temperature for 8 h. The mixture was then washed with water, brine, dried with MgSO4 and concentrated under reduced pressure. The residue was chromatographed (hexane-EtOAc 2:1) to afford 1.4 g of the title compound. 1H NMR (300 MHz-DMSO-d6) δ 3.70 (s, 3H), 7.42 (m, 3H), 11.64 (s, 1H); MS (DCI/NH3) m/z 188 (M+H)+, 205 (M+NH4)+.

reactant | 2,5-difluorobenzoyl chloride | 10 mmol, 1.77 g | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
reactant | O-methylhydroxylamine hydrochloride | 10 mmol, 830 mg | Cl.CON
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 2,5-difluoro-N-methoxybenzamide | 1.4 g | FC1=C(C(=O)NOC)C=C(C=C1)F | C8H7F2NO2
